US06271342B1
1.26.a) p-Nitrophenyl 3-O-benzyl-β-D-galactopyranoside
Dibutyltin oxide (1.87 g, 7.5 mmol) is added to a solution of p-nitrophenyl β-D-galactopyranoside (1.5 g, 5.0 mmol) in absolute dioxane (40 ml) and the mixture is heated under reflux. After 3 hours, benzyl bromide (3.6 ml, 30 mmol) are added to the solution obtained and the batch is stirred under reflux for a further 48 hours. The solvent is then distilled off in vacuo and the residue is purified by flash chromatography (ethyl acetate/petroleum ether 2:1→1:1]. Colourless crystals (1.58 g 81%) are obtained; TLC [methylene chloride/methanol/ammonia (25%) 15:3:0.2]: Rf=0.69; melting point=127° C.

reactant | Dibutyltin oxide | 7.5 mmol, 1.87 g | C(CCC)[Sn](CCCC)=O
reactant | p-nitrophenyl β-D-galactopyranoside | 5.0 mmol, 1.5 g | O([C@H]1[C@H](O)[C@@H](O)[C@@H](O)[C@H](O1)CO)C1=CC=C(C=C1)[N+](=O)[O-] | C12H15NO8
reactant | benzyl bromide | 30 mmol, 3.6 ml | C(C1=CC=CC=C1)Br | C7H7Br
reactant | methylene chloride methanol ammonia | C(Cl)Cl.CO.N
solvent | dioxane | 40 ml | O1CCOCC1 | C4H8O2
product | p-Nitrophenyl 3-O-benzyl-β-D-galactopyranoside | C(C1=CC=CC=C1)O[C@@H]1[C@H]([C@H](OC2=CC=C(C=C2)[N+](=O)[O-])O[C@@H]([C@@H]1O)CO)O | C19H21NO8
